US07723329B2
A solution of toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester (0.340 g, 0.720 mmol) in 2.0 M methylamine in THF (8 mL, 16 mmol) was stirred at 70° C. in a sealed tube for about 15.5 hours. After cooling somewhat, the reaction mixture was solvent evaporated and partitioned in chloroform and aqueous sodium bicarbonate. The organic phase was then washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 10% methanol in chloroform and 1.0% ammonium hydroxide/10% methanol in chloroform. After drying at 57° C. in vacuo for 20 minutes, [2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl]-methyl-amine as a light yellow semi-solid (0.0461 g, 19.4%) was obtained. This was dissolved in methanol and chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried in vacuo at 73° C. for 20 hours to yield the hydrochloride as a tan foam (0.0422 g). Mass Spectrum (+EI, [M+H]+) m/z 332. 1HNMR (500 MHz, DMSO-d6): δ14.24 (s, 1H), 8.89 (s, 2H), 7.96-7.99 (m, 2H), 7.53-7.68 (m, 4H), 7.40 (d, 1H, J=2.19 Hz), 7.25 (dd, 1H, J=9.15 Hz and 2.32 Hz), 4.30-4.32 (m, 2H), 3.33-3.35 (m, 2H), 2.60-2.63 ppm (m, 3H).

reactant | toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester | 0.720 mmol, 0.340 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O6S2
reactant | THF | 16 mmol, 8 mL | C1CCOC1 | C4H8O
reactant | methylamine | 2.0 M | CN | CH5N
product | [2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl]-methyl-amine | 0.0461 g, 19.4% | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCNC | C16H17N3O3S
